US05559111
b) 3(S)-Benzyloxycarbonylamino-4-methylpentanoic acid amide
2.23 g of 3(S)-benzyloxycarbonylamino-4-methylpentanoic acid ethyl ester and 50 ml of 6N ammonia (in methanol) are stirred for 6 days at 75° C. in a bomb tube. The reaction mixture is concentrated by evaporation and the residue is crystallised from ethyl acetate. The title compound is obtained: Rf (dichloromethane/methanol=95:5)=0.20; m.p. 171°-172° C.

reactant | 3(S)-benzyloxycarbonylamino-4-methylpentanoic acid ethyl ester | 2.23 g | C(C)OC(C[C@@H](C(C)C)NC(=O)OCC1=CC=CC=C1)=O | C16H23NO4
reactant | ammonia | 6N, 50 ml | N | H3N
product | 3(S)-Benzyloxycarbonylamino-4-methylpentanoic acid amide | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(=O)N)C(C)C | C14H20N2O3
